US07253286B2
N-(4-(7-Benzyloxy-6-cyano-4-quinolyl)oxy-2-fluorophenyl)-N′-(2-thiazolyl)urea
Phenyl N-(4-(6-cyano-7-benzyloxy-4-quinolyl)oxy-2-fluorophenyl)carbamate (6.93 g) and 2-aminothiazole (2.75 g) were dissolved in dimethylformamide (70 ml), and then diisopropylethylamine (4.8 ml) was added and the mixture was heated and stirred at 90° C. for 2 hours. After cooling, water was added and the precipitated solid was filtered out and washed with ethyl acetate to obtain 5.53 g of the title compound as light brown crystals (79% yield).

reactant | Phenyl N-(4-(6-cyano-7-benzyloxy-4-quinolyl)oxy-2-fluorophenyl)carbamate | 6.93 g | C(#N)C=1C=C2C(=CC=NC2=CC1OCC1=CC=CC=C1)OC1=CC(=C(C=C1)NC(OC1=CC=CC=C1)=O)F | C30H20FN3O4
reactant | 2-aminothiazole | 2.75 g | NC=1SC=CN1 | C3H4N2S
reactant | diisopropylethylamine | 4.8 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | O | H2O
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | N-(4-(7-Benzyloxy-6-cyano-4-quinolyl)oxy-2-fluorophenyl)-N′-(2-thiazolyl)urea | 5.53 g, 79% yield | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=CC(=C(C=C1)NC(=O)NC=1SC=CN1)F)C#N | C27H18FN5O3S
